US07981896B2
4-(8-Methoxy-3-methyl-4,5-dihydrobenzo[g]indazol-1-yl)-phenol.
1-(4-Benzyloxyphenyl)-8-methoxy-3-methyl-4,5-dihydro-1H-benzo[g]indazole (42 mg, 0.1 mmol) was dissolved in methanol/tetrahydrofuran (2/1, v/v, 1.5 mL) and a catalytic amount of 10% Pd/C (wet) was added. The flask was purged with nitrogen and hydrogen, then stirred under 1 atmosphere of hydrogen for 2 hours. The mixture was filtered through Celite and washed with methanol, and the filtrate was concentrated. The reaction was assumed to be quantitative. LC-MS (C19H18N2O2 calculated 306) m/z 307 (M+H).

reactant | 1-(4-Benzyloxyphenyl)-8-methoxy-3-methyl-4,5-dihydro-1H-benzo[g]indazole | 0.1 mmol, 42 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)OC)C | C26H24N2O2
solvent | methanol tetrahydrofuran | 1.5 mL | CO.O1CCCC1
catalyst | Pd/C | [Pd] | Pd
product | 4-(8-Methoxy-3-methyl-4,5-dihydrobenzo[g]indazol-1-yl)-phenol | COC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)O)C)C=C1 | C19H18N2O2
